US07786132B2
(ii) 3-(5-Bromothiophen-2-yl)-3-oxopropanenitrile
2-Bromo-1-(5-bromothiophen-2-yl)ethanone (5 g, 17.6 mmol) dissolved in ethanol (100 mL) was treated with an aqueous solution (10 mL) of potassium cyanide (6.19 g, 96.8 mmol) and stirred at ambient temperature overnight. The volatiles were removed in vacuo and crushed iced added to the residue which was acidified to pH 4 with acetic acid. The yellow precipitate that formed was collected by suction filtration and purified by flash chromatography on silica gel using a gradient of 10-30% of ethyl acetate in hexanes to yield a light gray solid (3 g).

reactant | 2-Bromo-1-(5-bromothiophen-2-yl)ethanone | 17.6 mmol, 5 g | BrCC(=O)C=1SC(=CC1)Br | C6H4Br2OS
reactant | potassium cyanide | 96.8 mmol, 10 mL, 6.19 g | [C-]#N.[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(5-Bromothiophen-2-yl)-3-oxopropanenitrile | 3 g | BrC1=CC=C(S1)C(CC#N)=O | C7H4BrNOS
